US04382951
(E) N-(6-Chloro-2H-1-benzopyrane-4yl-methyl)methylamine (for Examples 1, 5, 8 and 9)
500 ml of 33% ethanolic methylamine are added dropwise under ice-water cooling to 105 g 6-chloro-4-chloromethyl-2H-1-benzopyrane. Reaction is continued for 8 hours at room temperature, the mixture concentrated by evaporation and the residue taken up in dichloromethane. The mixture is washed with 500 ml each of 1 N NaOH and water, dried over MgSO4 and concentrated by evaporation. Distillation of the residue yields the title product b.p. 116°-120°/13.3 pascal.

reactant | 6-chloro-4-chloromethyl-2H-1-benzopyrane | 105 g | ClC=1C=CC2=C(C(=CCO2)CCl)C1 | C10H8Cl2O
reactant | methylamine | 500 ml | CN | CH5N
product | N-(6-Chloro-2H-1-benzopyrane-4yl-methyl)methylamine | ClC=1C=CC2=C(C(=CCO2)CNC)C1 | C11H12ClNO
